US05502054
In a flask were place 13.4 g (0.0918 mole) of 4,4-dimethyl-4-silapentanoic acid, 100 mL of diethyl ether, and two drops of N,N-dimethylformamide. To this solution, which was cooled in an ice/water bath, was added 13.98 g (0.110 mole) of oxalyl chloride in diethyl ether in a dropwise manner. Upon completion of addition, the temperature was allowed to rise to ambient conditions, and the mixture was stirred for approximately 16 hours. At the conclusion of this period the solvent was evaporated from the reaction mixture under reduced pressure, leaving 10.42 g of 4,4-dimethyl-4-silapentanoic acid chloride as a residue. The NMR spectrum was consistent with the proposed structure.

reactant | 4,4-dimethyl-4-silapentanoic acid | 0.0918 mole, 13.4 g | C[Si](CCC(=O)O)(C)C | C6H14O2Si
reactant | oxalyl chloride | 0.110 mole, 13.98 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 4,4-dimethyl-4-silapentanoic acid chloride | 10.42 g | C[Si](CCC(=O)Cl)(C)C | C6H13ClOSi
